US07446127B2
Step A: Preparation of tert-butyl-7-[2-(5-methyl-2-thien-2-yl-1,3-oxazol-4-yl)ethoxy]chromane-3-carboxylic acid
2-(5-methyl-2-thien-2-yl-1,3-oxazol-4-yl)ethyl methanesulfonate (947 mg, 3.3 mmol), tert-butyl 7-hydroxychromane-3-carboxylate (750 mg, 3 mmol) and potassium carbonate (1.24 g, 9 mmol) were mixed in CH3CN and refluxed under N2 atmosphere overnight. After the completion of the reaction (TLC), the reaction mixture was cooled to room temperature and diluted with 30 ml of diethyl ether and passed through a small pad of silica. Silica was washed with 100 ml of ether and the ether solution was evaporated to give the product which was purified by column chromatography on silica using ethyl acetate and hexanes as eluent (699 mg, 53%).

reactant | 2-(5-methyl-2-thien-2-yl-1,3-oxazol-4-yl)ethyl methanesulfonate | 3.3 mmol, 947 mg | CS(=O)(=O)OCCC=1N=C(OC1C)C=1SC=CC1 | C11H13NO4S2
reactant | tert-butyl 7-hydroxychromane-3-carboxylate | 3 mmol, 750 mg | OC1=CC=C2CC(COC2=C1)C(=O)OC(C)(C)C | C14H18O4
reactant | potassium carbonate | 9 mmol, 1.24 g | C([O-])([O-])=O.[K+].[K+]
solvent | CH3CN | CC#N | C2H3N
solvent | diethyl ether | 30 ml | C(C)OCC | C4H10O
product | tert-butyl-7-[2-(5-methyl-2-thien-2-yl-1,3-oxazol-4-yl)ethoxy]chromane-3-carboxylic acid | C(C)(C)(C)C1OC2=CC(=CC=C2CC1C(=O)O)OCCC=1N=C(OC1C)C=1SC=CC1 | C24H27NO5S
